US08614322B2
A solution of the oxime of 1-(benzo[h]quinolin-2-yl)ethanone (2.60 g, 11.0 mmol) and ammonium acetate (1.05 g, 13.6 mmol) in a mixture consisting of 30% NH3/H2O/96% EtOH (39.5/26.3/26.3 ml) was stirred at ambient temperature for 30 minutes. Zinc in powder form (3.95 g, 60.4 mmol) was then added in small portions (at ambient temperature) over a period of 2 hours, and the resulting mixture was heated under reflux for 3 hours. The grey precipitate formed was filtered off under reduced pressure and the solvent was evaporated to give a residue that was alkalized with 10% NaOH, and extracted with Et2O (3×30 ml). The organic phases were combined, dried over anhydrous Na2SO4 and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography using MeOH as eluent to give 1.88 g (77% yield) of 1-(benzo[h]quinolin-2-yl)ethanamine in the form of an orange coloured oil.

reactant | 1-(benzo[h]quinolin-2-yl)ethanone | 11.0 mmol, 2.60 g | N1=C(C=CC2=CC=C3C(=C12)C=CC=C3)C(C)=O | C15H11NO
reactant | ammonium acetate | 13.6 mmol, 1.05 g | C(C)(=O)[O-].[NH4+]
reactant | NH3 H2O | 26.3 ml | N.O
reactant | NaOH | [OH-].[Na+]
catalyst | Zinc | [Zn] | Zn
product | 1-(benzo[h]quinolin-2-yl)ethanamine | 1.88 g, 77% yield | N1=C(C=CC2=CC=C3C(=C12)C=CC=C3)C(C)N | C15H14N2
